US07091214B2
A solution of (3-nitro-7-phenylquinolin-4-yl)-(2-phenoxyethyl)amine (7.25 g, 18.8 mmol) in methanol (150 mL) was added to a Parr vessel charged with 5% platinum on carbon (0.84 g), and the reaction was placed under hydrogen pressure (50 psi, 3.4×105 Pa) for three hours. The reaction mixture was filtered through a layer of CELITE filter aid, and the filtrate was concentrated under reduced pressure, dissolved in toluene (2×25 mL), and concentrated under reduced pressure to provide N4-(2-phenoxyethyl)-7-phenylquinoline-3,4-diamine as a yellow semi-solid.

reactant | (3-nitro-7-phenylquinolin-4-yl)-(2-phenoxyethyl)amine | 18.8 mmol, 7.25 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1NCCOC1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O3
solvent | methanol | 150 mL | CO | CH4O
catalyst | platinum on carbon | 0.84 g | [Pt] | Pt
product | N4-(2-phenoxyethyl)-7-phenylquinoline-3,4-diamine | O(C1=CC=CC=C1)CCNC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)N | C23H21N3O
